US08536187B2
A solution of N-tert-butyl-4-cyano-3-methylbenzenesulfonamide (0.4861 g) in THF (19 ml) at 0° C. was treated with MeMgBr (1.4 M in THF, 4.13 ml). The reaction mixture was heated at reflux overnight. After cooling, the reaction was quenched with MeOH and sodium borohydride (3 eq) was added. The mixture was stirred at 0° C. for 1 h, warmed to room temperature and stirred for 4 hours. The reaction mixture was then quenched with H2O, stirred overnight and concentrated to give a yellow solid. The solid was partitioned between EtOAc/H2O and the organic layer was separated, dried (MgSO4) and concentrated to give a yellow oil. The oil was purified by reverse phase HPLC (5-100% ACN/H2O+0.1% TFA) to give 0.3403 g 4-(1-aminoethyl)-N-tert-butyl-3-methylbenzenesulfonamide as white powder after lyophilization.

reactant | N-tert-butyl-4-cyano-3-methylbenzenesulfonamide | 0.4861 g | C(C)(C)(C)NS(=O)(=O)C1=CC(=C(C=C1)C#N)C | C12H16N2O2S
reactant | MeMgBr | 1.4 M, 4.13 ml | C[Mg+].[Br-]
reactant | MeOH | CO | CH4O
reactant | sodium borohydride | 3 eq | [BH4-].[Na+]
solvent | THF | 19 ml | C1CCOC1 | C4H8O
product | 4-(1-aminoethyl)-N-tert-butyl-3-methylbenzenesulfonamide | 0.3403 g | NC(C)C1=C(C=C(C=C1)S(=O)(=O)NC(C)(C)C)C | C13H22N2O2S
